US09428496B2
1.1 Synthesis of ethyl 4-(5-hydroxypentyl)piperazinecarboxylate
Ethyl N-piperazinecarboxylate (25.50 g, 161.39 mmol), 5-bromo-1-pentanol (26.96 g, 161.39 mmol), potassium carbonate (55.68 g, 403.48 mmol) and anhydrous acetonitrile (200 mL) were placed in a 500 mL round-bottomed flask and heated under reflux with stirring overnight; the reaction system was cooled down to room temperature, filtered, concentrated and separated by column chromatography (eluent: dichloromethane/methanol/triethylamine system, v/v/v 100:1:0.5), to obtain a pale yellow oil 20.48 g, yield 52.0% (which was directly used in the next step reaction).

reactant | Ethyl N-piperazinecarboxylate | 161.39 mmol, 25.50 g | N1(CCNCC1)C(=O)OCC | C7H14N2O2
reactant | 5-bromo-1-pentanol | 161.39 mmol, 26.96 g | BrCCCCCO | C5H11BrO
reactant | potassium carbonate | 403.48 mmol, 55.68 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | ethyl 4-(5-hydroxypentyl)piperazinecarboxylate | 20.48 g, yield 52.0% | OCCCCCN1CCN(CC1)C(=O)OCC | C12H24N2O3
